* source PP
X_U1A         N01771 N00434 V50 0 N00607 LM324
R_R3         N00647 N00956  10K  
V_V4         N01771 N01796  
+SIN 0 1 1000 0 0 0
C_C3         0 V25  2.2uf  
R_R4         N00607 N00919  10K  
X_U2A         N01796 N00401 V50 0 N00647 LM324
V_V3         N01796 0 1.8
R_R5         N00956 N01033  10K  
X_U3A         N00919 N00956 V50 0 N01033 LM324
R_R1         N00434 N00607  10K  
R_R2         N00401 N00647  10K  
R_R6         V25 V50  470  
V_V1         V50 0 5Vdc
R_R7         N00434 N00401  {Gain}  
R_R8         0 V25  470  
C_C2         V25 V50  2.2uf  
R_R9         N00919 V25  10K  
C_C1         0 V50  100n  
.PARAM  H1=2.305 H2=2.325 Gain=1
